US06825166B2
A. Preparation of 3-hexenoyl Cholesterol
To a solution of cholesterol (2.0 g, 5.17 mM) in methylene chloride (20 mL) was added 5-hexenoic acid (0.68 mL, 5.69 mM) followed by the addition of DCC (1.60 g, 7.76 mM) and 4-PP (0.115 g, 0.78 mM) under nitrogen atmosphere. The resulting reaction mixture was stirred at ambient temperature for 1 h and worked up with the addition of methyl t-butyl ether (60 mL). The urea was filtered off, and the product was transferred to a separatory funnel, washed with 1N HCl (10 mL), water (30 mL) and brine (30 mL). The product was filtered after drying over MgSO4 and the solvent was evaporated to leave a residue. The product obtained in >95% yield was characterized by 1H NMR.

reactant | cholesterol | 5.17 mM, 2.0 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | 5-hexenoic acid | 5.69 mM, 0.68 mL | C(CCCC=C)(=O)O | C6H10O2
reactant | DCC | 7.76 mM, 1.60 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | methyl t-butyl ether | 60 mL | C(C)(C)(C)OC | C5H12O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-hexenoyl Cholesterol | >95% yield | C(C=CCCC)(=O)[C@]1(CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C33H54O2
